US03996282
Dilute hydrochloric acid hydrolysis of N-methyl-N-2-(N'-ethylanilino)ethyl-N,N-bis(3-formamidopropyl)ammonium chloride following a procedure similar to that of B-4 above gave N-methyl-N-2-(N'-ethylanilino)ethyl-N,N-bis(3-aminopropyl)ammonium chloride.

reactant | hydrochloric acid | Cl | ClH
reactant | N-methyl-N-2-(N'-ethylanilino)ethyl-N,N-bis(3-formamidopropyl)ammonium chloride | [Cl-].C[N+](CCCNC=O)(CCCNC=O)CCN(C1=CC=CC=C1)CC
product | N-methyl-N-2-(N'-ethylanilino)ethyl-N,N-bis(3-aminopropyl)ammonium chloride | [Cl-].C[N+](CCCN)(CCCN)CCN(C1=CC=CC=C1)CC | InChI=1S/C17H33N4.ClH/c1-3-20(17-9-5-4-6-10-17)13-16-21(2,14-7-11-18)15-8-12-19;/h4-6,9-10H,3,7-8,11-16,18-19H2,1-2H3;1H/q+1;/p-1
